US07241761B2
(a) 4-(6-Chloro-quinolin-2-yl)-piperazine-1-carboxylic acid tert.-butyl ester
Prepared in analogy to example 1.18 (a) from 2,6-dichloroquinoline and piperazine-1-carboxylic acid tert-butyl ester. Crystallisation from methanol yields the title compound as a colorless solid.

reactant | 2,6-dichloroquinoline | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-(6-Chloro-quinolin-2-yl)-piperazine-1-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC2=CC=C(C=C2C=C1)Cl | C18H22ClN3O2
